tb_loop__g10_cm680p_r1.33k.cir - L40 ESPLORAZIONE da tb_loop.cir, RG0L40 FB 0 12.4k; alter r138 = 4.99k; alter c124 = 680p; alter r128 = 1.33k
* METHOD: voltage injection at the inverting JFET gate. That node draws no
* current (JFET gate, ~1e12 ohm) while the feedback network drives it from
* ~470 ohm, so simple voltage injection is exact here - no Middlebrook
* correction needed. The deck OPENS the generated gate stopper R109 and
* re-creates it as RBRK + a DC=0 AC=1 source, so the loop topology and the DC
* bias are untouched; only the injection point is added.
*
* T = V(FB)/V(G2). G2 is the INVERTING input, so T is negative real at DC:
* its phase there is 180 deg. Phase margin is therefore read directly as
* |ph(T)| at the frequency where |T| = 1.
*
* WHERE THE PROBE GOES (L12, ADR-024). The capacitive probe of V1 is the
* interconnect cable: it sits at the JACK, and ADR-019's 60 deg must hold for
* EVERY cable up to 4.7 nF - the verdict is the MINIMUM over the sweep, not the
* value at 4.7 nF (at the jack the minimum lies between 2.2 and 3.3 nF).
*   pos 1  CCABLE at the JACK, after 47 ohm + 4.7 uF - the position that counts;
*   pos 2  CNODE on the OUTPUT NODE, before the 47 ohm - information only, and
*          the check that the deck can fail (L12: with CNODE never altered the
*          pos-2 rows stayed at the 1 fF value).
* The unused probe sits at 1 fF.
*
* ATTENUATOR SOURCE (L12). Block B's gate is fed by the 10 k stepped attenuator,
* whose Zout goes 0 -> 2.5 k (mid-rotation) -> ~0. V1 lists the positions; L12
* found the worst cell at 2.5 k. RSRCB sweeps 1 mohm, 1 k, 2.5 k.
* Node VSRCN, not SRC: gain_block_flat.inc has a node SRC (docs/limitations.md #24).
*
* Phase margin is set by device capacitances and transit times. Until L39 they
* came from hand-written placeholders; since L39 (NC-017) they are the
* manufacturer models of models/. Two of them miss their own datasheet: both
* MJE f_T sit under the 30 MHz minimum (NC-025), the LS352 f_T 35 % under
* (NC-020) - every margin here carries that.

.include /Users/roberto/EDA/.claude/worktrees/L40/models/jfet/lsk489.lib
.include /Users/roberto/EDA/.claude/worktrees/L40/models/bjt_npn/mmbt5551.lib
.include /Users/roberto/EDA/.claude/worktrees/L40/models/bjt_pnp/mmbt5401.lib
.include /Users/roberto/EDA/.claude/worktrees/L40/models/bjt_npn/mje15032.lib
.include /Users/roberto/EDA/.claude/worktrees/L40/models/bjt_pnp/mje15033.lib
.include /Users/roberto/EDA/.claude/worktrees/L40/models/diodes/1n4148.lib
* L39 (NC-017): every active device in this deck is a vendor model from
* models/, each next to its .provenance.json:
*   LSK489   - vendor model LSK489A, the published corner sample (I_DSS
*              2.59 mA, below the group-B window of ADR-031)
*   LS352    - vendor model LS350 (ADR-018), included on the next line
*   MMBT5551 - vendor model, Diodes Inc. (ADR-017)
*   MMBT5401 - vendor model, Diodes Inc. (ADR-017)
*   MJE15032 - vendor model Qmje15032, onsemi (NC-024, NC-025)
*   MJE15033 - vendor model Qmje15033, onsemi (NC-025)
*   1N4148   - vendor model D1N914, onsemi (docs/limitations.md #20)
* Only the LSK489A carries KF: 1/f noise is on the input pair and nowhere
* else. No model carries part-to-part spread.
.include /Users/roberto/EDA/.claude/worktrees/L40/models/bjt_pnp/ls350.lib
.include /Users/roberto/EDA/.claude/worktrees/L40/spice/preamp/gain_block_flat.inc

VPP VPLUS 0 DC 15
VMM VMINUS 0 DC -15
VIN VSRCN 0 DC 0
RSRCB VSRCN IN 1m

* The two gain-relay contact nodes (L27, ADR-026). Each starts as an OPEN
* contact - 15 pF of stray, 1 G of leakage - and a closed one is 0.1 ohm:
*   0 dB    rrg = 1G    rrg10 = 1G
*   +3 dB   rrg = 0.1   rrg10 = 1G
*   +10 dB  rrg = 0.1   rrg10 = 0.1
* RG10 must be terminated here: left dangling it silently behaves as an open
* contact without its stray (scripts/check_deck_refs.py refuses that).
CSTRAY   RG   0 15p
RRG      RG   0 1G
CSTRAY10 RG10 0 15p
RRG10    RG10 0 1G

* loop break, substituting for the generated 100 ohm gate stopper R109
RBRK FB NBRK 100
VINJ NBRK G2 DC 0 AC 1

* BLOCK B output network + cable. The probes are altered in the loop below.
* No new node names on the block: CNODE sits on the block's own OUT (#24).
RISO   OUT OUTA 47
COUT   OUTA JACK 4.7u
RBLEED JACK 0 220k
RLOAD  JACK 0 100k
CCABLE JACK 0 1f
CNODE  OUT 0 1f

* L40: righe di netlist in piu' (varianti.py)
RG0L40 FB 0 12.4k
.control
* L40: variante
alter r138 = 4.99k
alter c124 = 680p
alter r128 = 1.33k
show r138 : resistance
show c124 : capacitance
show r128 : resistance
show rg0l40 : resistance
* --- wrdata (L5): una curva di anello PER ITERAZIONE ------------------
* NOMI PARAMETRIZZATI: un `$var` in un nome di file non si chiude da solo
* - ngspice fa entrare nel nome della variabile anche `.`, `-` e `_`,
* quindi `wrdata tb_loop_$cab.txt` cercherebbe la variabile "cab.txt". Un
* `$` invece TERMINA il nome: la forma che funziona e' `$cab$t` con
* t = ".txt" e u = "_". Misurato con una sonda in L5, non dedotto.
*
* DOVE: dentro il ciclo interno, PRIMA del `destroy all` (docs/limitations.md #10).
*
* I FILE (L12, L27), con <C> in 1f 47p 100p 220p 470p 1n 1.5n 2.2n 2.7n 3.3n 4.7n
* e <G> in 0db 3db 10db. Le curve si scrivono solo col carico da 100 k:
*   sorgente 1 mohm, sonda al jack:  tb_loop_<G>_<C>.txt      - i nomi di prima
*   sorgente 1 mohm, sonda sul nodo: tb_loop_nodo_<G>_<C>.txt
*   sorgente 2.5 k,  sonda al jack:  tb_loop_att2k5_<G>_<C>.txt
* La sorgente da 1 k, la 2.5 k sul nodo e il carico da 10 k stanno solo in tabella.
* LA TABELLA dei margini e' tb_loop_margini.csv, scritta da echo: nessun
* wrdata produce quel nome (docs/limitations.md #25). La colonna rload (L27)
* sta in CODA, cosi' le prime sette restano confrontabili con quelle di L12.
*
* CARICO (L27): V1 elenca il cj da 100 k, e ADR-007 dimensiona l'uscita per
* un finale futuro da 10 k. RLOAD spazza entrambi.
*
* MODALITA' (L27, ADR-026): `foreach mode 0 3 10`, e ogni ramo imposta i DUE
* contatti. Le etichette sono quotate: `set gm = 3db` memorizzerebbe 3
* (docs/limitations.md #10).
*
* COLONNE delle curve (~801 righe, 1 Hz - 100 MHz, 100 punti/decade).
*   col0 = frequenza [Hz]   col1 = Tdb = |T| in dB
*   col2 = frequenza [Hz]   col3 = Tph = fase di T in GRADI
* Margine di fase = |Tph| dove Tdb attraversa lo zero. Non e' 180 - |Tph|.
* ---------------------------------------------------------------------
set t = .txt
set u = "_"
alter r109 = 1G
set units = degrees
echo "mode,rsrc,pos,cprobe,fcross_hz,pm_deg,tdb_10hz,rload" > tb_loop_margini.csv
foreach mode 0 3 10
  if $mode = 0
    set gm = "0db"
    alter rrg = 1G
    alter rrg10 = 1G
  end
  if $mode = 3
    set gm = "3db"
    alter rrg = 0.1
    alter rrg10 = 1G
  end
  if $mode = 10
    set gm = "10db"
    alter rrg = 0.1
    alter rrg10 = 0.1
  end
  foreach rl 100k 10k
    alter rload = $rl
    foreach rs 1m 1k 2.5k 2.571k 2.611k
      alter rsrcb = $rs
      foreach pos 1 2
        foreach cab 1f 47p 100p 220p 470p 1n 1.5n 2.2n 2.7n 3.3n 4.7n
          if $pos = 1
            alter ccable = $cab
            alter cnode = 1f
          else
            alter ccable = 1f
            alter cnode = $cab
          end
          ac dec 100 1 100meg
          let T = v(fb)/v(g2)
          let Tdb = db(T)
          let Tph = ph(T)
          meas ac fcross when Tdb=0
          meas ac pmarg find Tph when Tdb=0
          meas ac tdc find Tdb at=10
          echo "mode=$gm  rload=$rl  rsrc=$rs  pos=$pos  C=$cab"
          print fcross pmarg tdc
          echo "$gm,$rs,$pos,$cab,$&fcross,$&pmarg,$&tdc,$rl" >> tb_loop_margini.csv
          if $rl = 100k
            if $rs = 1m
              if $pos = 1
                let l40_nessuna_curva = 0
              else
                let l40_nessuna_curva = 0
              end
            end
            if $rs = 2.5k
              if $pos = 1
                let l40_nessuna_curva = 0
              end
            end
          end
          destroy all
        end
      end
    end
  end
end
.endc

.end
